US05563163
Similarly, reaction of 2-trichloromethylbenzoic-acid with thionyl chloride affords 2-trichloromethylbenzoyl-chloride, which, on reaction with diethylamine, affords 2-trichloromethyl-N,N-diethylbenzamide. Following a procedure similar to that described in Preparation 5, reaction of the latter with s-butyl lithium and reaction of the resulting lithium salt with sulfur dioxide followed by sodium hydroxyl-amine-O-sulfonate affords 2-trichloromethyl-6-aminosulfonyl-N,N-diethylbenzamide, which, on heating in glacial acetic acid, affords 4-trichloromethylsaccharin.

reactant | 2-trichloromethylbenzoic-acid | ClC(C1=C(C(=O)O)C=CC=C1)(Cl)Cl | C8H5Cl3O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2-trichloromethylbenzoyl-chloride | ClC(C1=C(C(=O)Cl)C=CC=C1)(Cl)Cl | C8H4Cl4O
